US05733922
4-(2-dimethylaminobenzylthio)-5-ethyl-5-methyl-3-imidazolin-2-one
In the present Example, 2.3 g of 2-dimethylaminobenzylchloride hydrochloride and 1.5 g of 5-ethyl-5-methyl-4-thiohydantoin were reacted following the procedure used in Example 36. Crystallization from diethyl ether-n-hexane gave the desired compound in the form of a needle-like crystal. The yield of this compound was 1.9 g with a yield ratio of 68.6%, and the melting point was 111°-113° C.

reactant | 2-dimethylaminobenzylchloride hydrochloride | 2.3 g | Cl.CN(C1=C(CCl)C=CC=C1)C
reactant | 5-ethyl-5-methyl-4-thiohydantoin | 1.5 g | C(C)C1(C(NC(N1)=O)=S)C | C6H10N2OS
product | 4-(2-dimethylaminobenzylthio)-5-ethyl-5-methyl-3-imidazolin-2-one | CN(C1=C(CSC2=NC(NC2(C)CC)=O)C=CC=C1)C | C15H21N3OS
